datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]1([H:16])([H:17])[C:10]([H:18])([H:19])[C:11]2([H:20])[C:12]([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]1([H:25])[C:15]2([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:16])[H:4].[C:9]1([H:17])[C:10]([H:18])([H:19])[C:11]2([H:20])[C:12]([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]1([H:25])[C:15]2([H:26])[H:27],74.5589
[C:0]([C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])[H:9])([H:7])[H:8]>>[C:0]([C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])[C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])([H:7])([H:8])[H:9],87.4456
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])[H:10])[H:9],60.3333
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],60.668
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[c:8]1([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:14])([H:3])([H:4])[H:5].[c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19],97.7382
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:28])([H:29])[H:30])=[C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:17]([C:15]([C:14]([H:25])([H:26])[H:27])[C:16]([H:28])([H:29])[H:30])([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:7])([H:5])[H:6],59.0362
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([c:25]1[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]1[H:39])[H:34])([H:31])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:24]([C:23]([H:31])([H:32])[H:33])([c:25]1[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]1[H:39])[H:34])[H:13])([H:11])[H:12],36.9029
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:13](=[C:14]([H:16])[H:17])[H:15])([H:5])[H:6],8.40984
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:5][H:16],0.0
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:7])([H:5])[H:6].[O:16][O:17]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:5])[H:6].[H:7][O:16][O:17],50.04064
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:10])[H:11])([H:8])[H:9]>>[C:0](=[C:1]([H:10])[H:11])([H:8])[H:9].[c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16],161.94172
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:17](=[C:18]([H:20])[H:21])[H:19])[H:9])([H:7])[H:8],16.9034
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:14])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],309.616
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]1([H:15])[H:16])[H:8],102.257
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8](=[S:9])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:13])([H:4])[H:5].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12],57.7392
